US09403807B2
Step D: methyl 2-(4-chlorophenyl)-2-(4-(2-(methylsulfonyl)ethyl)-1H-indol-1-yl)butanoate
To a solution of (E)-methyl 2-(4-chlorophenyl)-2-(4-(2-(methylsulfonyl)vinyl)-1H-indol-1-yl)butanoate (1.18 g, 2.73 mmol) in EtOAc (50 mL) was added Pd/C (10% on carbon, 0.2 g). The mixture was stirred under H2 atmosphere for 30 min. Then the reaction mixture was filtered through a celite pad, and the filtrate was concentrated in vacuo. The residue was purified via column chromatography (0-30% EtOAc/hexanes) to provide the title compound. LC/MS m/z=434.1 [M+H]+.

reactant | (E)-methyl 2-(4-chlorophenyl)-2-(4-(2-(methylsulfonyl)vinyl)-1H-indol-1-yl)butanoate | 2.73 mmol, 1.18 g | ClC1=CC=C(C=C1)C(C(=O)OC)(CC)N1C=CC2=C(C=CC=C12)\C=C\S(=O)(=O)C | C22H22ClNO4S
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 0.2 g | [Pd] | Pd
product | methyl 2-(4-chlorophenyl)-2-(4-(2-(methylsulfonyl)ethyl)-1H-indol-1-yl)butanoate | ClC1=CC=C(C=C1)C(C(=O)OC)(CC)N1C=CC2=C(C=CC=C12)CCS(=O)(=O)C | C22H24ClNO4S
